US06310107B1
(+)-6-[4-(1,3-Benzodioxol-5-yl)phenyl]methoxy-2-[2-(N,N-dimethylamino)ethyl]tetralin Hydrochloride
A mixture of (+)-6-(4-bromobenzyl)oxy-2-[2-(N,N-dimethylamino)ethyl]tetralin hydrochloride (1 g), toluene (20 ml), ethanol (2.5 ml), and 2 M aqueous sodium carbonate (2.5 ml) was stirred at room temperature for 10 min. 3,4-Methylenedioxybenzeneboric acid (469 mg) and tetrakis(triphenylphosphine) palladium (82 mg) were added and the reaction mixture was heated under reflux for 14 hr under argon. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:20 to 1:5) and converted into its hydrochloride, which was then recrystallized from methanol-diisopropyl ether to obtain the titled compound (830 mg).

reactant | (+)-6-(4-bromobenzyl)oxy-2-[2-(N,N-dimethylamino)ethyl]tetralin hydrochloride | 1 g | Cl.BrC1=CC=C(COC=2C=C3CCC(CC3=CC2)CCN(C)C)C=C1
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2 M, 2.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 82 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-6-[4-(1,3-Benzodioxol-5-yl)phenyl]methoxy-2-[2-(N,N-dimethylamino)ethyl]tetralin Hydrochloride | 830 mg | Cl.O1COC2=C1C=CC(=C2)C2=CC=C(C=C2)COC=2C=C1CCC(CC1=CC2)CCN(C)C | InChI=1S/C28H31NO3.ClH/c1-29(2)14-13-20-3-8-24-16-26(11-9-23(24)15-20)30-18-21-4-6-22(7-5-21)25-10-12-27-28(17-25)32-19-31-27;/h4-7,9-12,16-17,20H,3,8,13-15,18-19H2,1-2H3;1H
